US06914074B2
6-(4-Hydroxy-2-methylphenyl)-2-naphthol
The title compound was prepared by reacting 6-(4-methoxy-2-methylphenyl)-2-naphthol (420 mg, 1.59 mmol) with boron tribromide (4.53 mL of 1.0 M solution in CH2Cl2, 4.53 mmol) according to method D to yield 400 mg (quantitative yield) of a yellowish solid: mp 191-193° C.; 1H NMR (DMDO-d6): δ 6.68 (1H, dd, J=8.41 Hz, J=2.21 Hz), 6.72 (1H, d, J=2.21 Hz), 7.07-7.11 (2H, m), 7.14 (1H, d, J=2.21 Hz), 7.33 (1H, dd, J=8.41 Hz, J=2.21 Hz), 7.64 (1H, d, J=0.885 Hz), 7.68 (1H, d, J=8.41 Hz), 7.77 (1H, d, J=9.29 Hz), 9.33 (1H, s), 9.69 (1H, s); 13C NMR (DMDO-d6): δ 108.34, 112.82, 116.84, 118.68, 125.47, 127.13, 127.56, 128.02, 129.26, 130.71, 132.26, 133.02, 135.63, 135.90, 155.11, 156.31; MS (ESI) m/z 249 (M−H)+.

reactant | 6-(4-methoxy-2-methylphenyl)-2-naphthol | 1.59 mmol, 420 mg | COC1=CC(=C(C=C1)C=1C=C2C=CC(=CC2=CC1)O)C | C18H16O2
reactant | boron tribromide | 4.53 mmol, 1.0 M, 4.53 mL | B(Br)(Br)Br | BBr3
product | 6-(4-Hydroxy-2-methylphenyl)-2-naphthol | OC1=CC(=C(C=C1)C=1C=C2C=CC(=CC2=CC1)O)C | C17H14O2
